US07125887B2
Step A: 1,1-Cyclobutanedicarboxylic acid, dibenzyl ester
A solution of 2.0 g (13.8 mmol) of cyclobutanedicarboxylic acid in 20 mL of DMF at 0° C. was treated with 7.7 mL (55.5 mmol) of triethylamine and 5.0 mL (41.6 mmol) of benzyl bromide. The reaction was warmed to rt and stirred overnight. The reaction was partitioned between H2O and CH2Cl2. The residue was purified with a 40M Biotage column using 1:1 v/v of hexanes/EtOAc as the eluant to afford the title compound: 1H-NMR (500 MHz) δ 1.95–2.03 (m, 2H), 2.55–2.58 (m, 4H), 5.14 (s, 4H), 7.24–7.37 (m, 10H).

reactant | cyclobutanedicarboxylic acid | 13.8 mmol, 2.0 g | C1(CCC1)(C(=O)O)C(=O)O | C6H8O4
reactant | triethylamine | 55.5 mmol, 7.7 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 41.6 mmol, 5.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1,1-Cyclobutanedicarboxylic acid, dibenzyl ester | C1(CCC1)(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C20H20O4
